US08349833B2
A mixture of pyrrolo[3,2-c]pyridine-1-carboxylic acid tert-butyl ester (0.81 g, 3.73 mmol), 8-bromo-8-(2-chlorophenyl)-2,2-dimethyloctanoic acid ethyl ester (1.44 g, 3.73 mmol), and acetonitrile (25 mL) were stirred at 45° C. for 52 hours. The solvent was evaporated under reduced pressure and residue was washed with diethyl ether (3×20 mL) to afford 1-tert-butoxycarbonyl-5-[1-(2-chlorophenyl)-7-methyloctyl]-1H-pyrrolo[3,2-c]pyridin-5-ium bromide (1.37 g, 60.6% yield) as a yellow oil. 1H NMR (Field: 300 MHz, Solvent: CD3OD/TMS) δ (ppm): 10.52 (s, 1H), 8.84 (d, 1H, J=7.2 Hz), 8.23 (d, 1H, J=7.8 Hz), 7.91 (t, 1H, J=3.6 Hz), 7.54-7.31 (m, 4H), 7.39 (s, 1H), 6.95 (s, 1H), 6.42 (t, 1H, J=7.2 Hz), 4.09 (q, 2H, J=7.2 Hz), 2.67 (m, 1H), 1.70 (s, 9H), 1.42-1.19 (m, 8H), 1.21 (t, 31-I, J=6.9 Hz), 1.10 (s, 6H). 13C NMR (Field: 75 MHz, Solvent: CDCl3/TMS) δ (ppm): 178.00, 147.44, 140.17, 136.60, 133.19, 131.97, 131.45, 130.42, 130.03, 128.64, 113.10, 108.61, 88.15, 71.55, 60.34, 42.23, 40.54, 34.54, 29.69, 28.13, 26.42, 25.28, 24.92, 14.46. HRMS (HR, DIP-CI): Calculated for C30H40ClN2O2 (M+H)+: not found (decomposed on analysis).

reactant | pyrrolo[3,2-c]pyridine-1-carboxylic acid tert-butyl ester | 3.73 mmol, 0.81 g | C(C)(C)(C)OC(=O)N1C=CC=2C=NC=CC21 | C12H14N2O2
reactant | 8-bromo-8-(2-chlorophenyl)-2,2-dimethyloctanoic acid ethyl ester | 3.73 mmol, 1.44 g | C(C)OC(C(CCCCCC(C1=C(C=CC=C1)Cl)Br)(C)C)=O | C18H26BrClO2
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
product | 1-tert-butoxycarbonyl-5-[1-(2-chlorophenyl)-7-methyloctyl]-1H-pyrrolo[3,2-c]pyridin-5-ium bromide | 1.37 g, 60.6% yield | [Br-].C(C)(C)(C)OC(=O)N1C=CC=2C=[N+](C=CC21)C(CCCCCC(C)C)C2=C(C=CC=C2)Cl | InChI=1S/C27H36ClN2O2.BrH/c1-20(2)11-7-6-8-14-25(22-12-9-10-13-23(22)28)29-17-16-24-21(19-29)15-18-30(24)26(31)32-27(3,4)5;/h9-10,12-13,15-20,25H,6-8,11,14H2,1-5H3;1H/q+1;/p-1
